US09102591B2
A solution of 2-(3-hydroxypropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile (54 mg, 0.26 mmol) and CBr4 (259 mg, 0.782 mmol) in DCM (3 ml) was cooled at 0° C. Triphenylphosphine (205 mg, 0.782 mmol) in DCM (1 ml) was added dropwise over a period of 5 minutes. The reaction was stirred for 2 hours and then allowed to warm to room temperature. To the mixture was added Et2O (5 mL) and the cloudy solution was filtred through a plug of celite. The resulting solution was concentrated in vacuo and purified by flash chromatography to yield 2-(3-Bromopropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile.

reactant | 2-(3-hydroxypropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile | 0.26 mmol, 54 mg | OCCCOC(C#N)C=1C=NC(=NC1)C | C10H13N3O2
reactant | CBr4 | 0.782 mmol, 259 mg | C(Br)(Br)(Br)Br | CBr4
reactant | Triphenylphosphine | 0.782 mmol, 205 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Et2O | 5 mL | CCOCC | C4H10O
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Bromopropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile | BrCCCOC(C#N)C=1C=NC(=NC1)C | C10H12BrN3O
